US07498354B2
A mixture of 1-(4-bromophenyl)-1,4-dihydropyrrolo[2,3-d]imidazole-5-carboxylic acid (70 mg, 0.23 mmol), CDI (75 mg, 0.46 mmol) and DIPEA (0.1 mL) in dry THF (3 mL) was stirred at 60° C. for 1 h and then treated with 2-methoxyethylamine (0.1 mL). After additional 2 h at 60° C., the mixture was concentrated under reduced pressure, the residue suspended in water (5 mL) and the solid collected by filtration and washed with water to give 1-(4-bromophenyl)-N-(2-methoxyethyl)-1,4-dihydropyrrolo[2,3-d]imidazole-5-carboxamide EXAMPLE 3. LC-MS (ES+): m/z 363/365 (1/1) [MH+]. 1H NMR (CDCl3, 400 MHz): δ=3.41 (s, 3H), 3.57 (t, J=4.9 Hz, 2H), 3.67 (app. q, J=4.9 Hz, 2H), 6.34 (br s, 1H, CONH), 6.60 (s, 1H), 7.42 (d, J=8.7 Hz, 2H), 7.64 (d, J=8.7 Hz, 2H), 7.88 (s, 1H), 9.32 (br s, 1H, NH).

reactant | 1-(4-bromophenyl)-1,4-dihydropyrrolo[2,3-d]imidazole-5-carboxylic acid | 0.23 mmol, 70 mg | BrC1=CC=C(C=C1)N1C=NC2=C1C=C(N2)C(=O)O | C12H8BrN3O2
reactant | CDI | 0.46 mmol, 75 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | DIPEA | 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-methoxyethylamine | 0.1 mL | COCCN | C3H9NO
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 1-(4-bromophenyl)-N-(2-methoxyethyl)-1,4-dihydropyrrolo[2,3-d]imidazole-5-carboxamide | BrC1=CC=C(C=C1)N1C=NC2=C1C=C(N2)C(=O)NCCOC | C15H15BrN4O2
